US09376443B2
Ethyl 6-difluoromethoxymethylpyridine-2-carboxylate
2,2-Difluoro-2-(fluorosulfonyl)acetic acid (495 mL, 4.79 mmol) was added dropwise to a solution of ethyl 6-hydroxymethylpyridine-2-carboxylate (800 mg, 4.79 mmol) and CuI (91 mg, 0.479 mmol) in MeCN (10 mL) at room temperature at a rate to maintain the internal temperature <30° C. The mixture was stirred for a further 20 min at room temperature, poured onto brine/water and extracted with EtOAc (×3). The combined extracts were dried (MgSO4), filtered, evaporated and purified by column chromatography (4:1 to 2:1, isohexane:EtOAc) to give the title compound (130 mg, 13%) as a colorless oil; NMR δH (400 MHz, CDCl3) 8.01 (1H, d, J 7.5 Hz), 7.89 (1H, t, J 7.5 Hz), 7.66 (1H, d, J 7.5 Hz), 6.41 (1H, t, J 74.0 Hz), 5.14 (2H, s), 4.49 (2H, q, J 7.0 Hz), 1.44 (3H, t, J 7.0H); (M+H)+ 232.

reactant | 2,2-Difluoro-2-(fluorosulfonyl)acetic acid | 4.79 mmol, 495 mL | FC(C(=O)O)(S(=O)(=O)F)F | C2HF3O4S
reactant | ethyl 6-hydroxymethylpyridine-2-carboxylate | 4.79 mmol, 800 mg | OCC1=CC=CC(=N1)C(=O)OCC | C9H11NO3
solvent | MeCN | 10 mL | CC#N | C2H3N
catalyst | CuI | 0.479 mmol, 91 mg | [Cu]I
product | Ethyl 6-difluoromethoxymethylpyridine-2-carboxylate | 130 mg, 13% | FC(OCC1=CC=CC(=N1)C(=O)OCC)F | C10H11F2NO3
